US05686464
g1) (+)-N,N-Diisopropyl-3-(2-benzyloxy-5-carboxyphenyl)-3-phenylpropylamine hydrochloride
A mixture of magnesium (12.2 g, 0.5 mole), ethyl bromide (2 g), and iodine (a small crystal) in dry diethyl ether (200 mL) was warmed until the reaction started. (+)-N,N-diisopropyl-3-(2-benzyloxy-5-bromophenyl)-3-phenylpropylamine (45.6 g, 0.095 mole) and ethyl bromide (32.7 g, 0.3 mole) dissolved in dry diethyl ether (250 mL) were then added dropwise under nitrogen atmosphere. The mixture was refluxed for 1.5 h and then cooled in an acetone/dry-ice bath, whereupon powdered dry ice (≈100 g) was added gently. Tetrahydrofuran was added when needed to prevent the mixture from solidification. The reaction mixture was stirred for 0.5 h when ammonium chloride (200 mL, 20% w/w) was added. The mixture was stirred vigorously until two transparent phases were formed, and then filtered through a pad of Celatom. The aqueous layer was washed with diethyl ether and then acidified with hydrochloric acid to pH 1. The precipitated semi-crystalline gum was washed with water, and then transferred to a round bottom flask. The product was dried by co-evaporation with acetone, benzene, toluene, diisopropyl ether and methanol, successively. The title compound (35.1 g, 77%) was isolated as friable shiny flakes and used without any further purification.

reactant | magnesium | 0.5 mole, 12.2 g | [Mg] | Mg
reactant | ethyl bromide | 2 g | C(C)Br | C2H5Br
reactant | iodine | II | I2
reactant | (+)-N,N-diisopropyl-3-(2-benzyloxy-5-bromophenyl)-3-phenylpropylamine | 0.095 mole, 45.6 g | C(C)(C)N(C(C)C)CCC(C1=CC=CC=C1)C1=C(C=CC(=C1)Br)OCC1=CC=CC=C1 | C28H34BrNO
reactant | ethyl bromide | 0.3 mole, 32.7 g | C(C)Br | C2H5Br
reactant | dry ice | ≈100 g | C(=O)=O | CO2
reactant | ammonium chloride | 200 mL | [Cl-].[NH4+]
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 250 mL | C(C)OCC | C4H10O
solvent | Tetrahydrofuran | O1CCCC1 | C4H8O
product | (+)-N,N-Diisopropyl-3-(2-benzyloxy-5-carboxyphenyl)-3-phenylpropylamine hydrochloride | 35.1 g, 77% | Cl.C(C)(C)N(C(C)C)CCC(C1=CC=CC=C1)C1=C(C=CC(=C1)C(=O)O)OCC1=CC=CC=C1 | InChI=1S/C29H35NO3.ClH/c1-21(2)30(22(3)4)18-17-26(24-13-9-6-10-14-24)27-19-25(29(31)32)15-16-28(27)33-20-23-11-7-5-8-12-23;/h5-16,19,21-22,26H,17-18,20H2,1-4H3,(H,31,32);1H
